US07514473B2
(a) (R)-2-(5-Bromo-2,3-difluoro-phenoxymethyl)-oxirane
To an acetone solution (0.1 M, 240 mL) of commercially available 5-bromo-2,3-difluorophenol (5.0 g, 23.93 mmol) was added K2CO3 (9.92 g, 71.77 mmol), and the mixture was heated to reflux for 30 min. After cooling this mixture to RT, (2R)-(−)-glycidyl 3-nitrobenzenesulfonate (6.20 g, 23.93 mmol) was added, and the resulting mixture was heated to reflux overnight. After cooling to RT, the solids were removed by filtration and washed well with ethyl acetate. The filtrate was concentrated and partitioned between ethyl acetate and 1N HCl. The organic portion was washed successively with 5% NaHCO3 and brine, dried (MgSO4), filtered and concentrated to a solid. Purification by FCC (15% ethyl acetate/hexanes) gave the product as a white solid in 97% yield (6.19 g).

reactant | 5-bromo-2,3-difluorophenol | 23.93 mmol, 5.0 g | BrC=1C=C(C(=C(C1)O)F)F | C6H3BrF2O
reactant | K2CO3 | 71.77 mmol, 9.92 g | C(=O)([O-])[O-].[K+].[K+]
reactant | (2R)-(−)-glycidyl 3-nitrobenzenesulfonate | 23.93 mmol, 6.20 g | C1[C@@H](O1)COS(=O)(=O)C2=CC=CC(=C2)[N+](=O)[O-] | C9H9NO6S
solvent | acetone | 0.1 M, 240 mL | CC(=O)C | C3H6O
product | (R)-2-(5-Bromo-2,3-difluoro-phenoxymethyl)-oxirane | 97% yield | BrC=1C=C(C(=C(OC[C@@H]2OC2)C1)F)F | C9H7BrF2O2
